US07534914B2
STEP 1. Methyl 5-chloro-2-{[(5-fluoropyridin-3-yl)oxy]methyl}benzoate
To a solution of 3-fluoro-5-hydroxypyridine (34 mg, 0.30 mmol) in dimethylformamide (3 mL) was added sodium hydride (60% dispersion in mineral oil, 12 mg, 0.30 mmol) at 0° C. and the mixture was stirred at room temperature for 15 minutes. To the mixture was added methyl 2-(bromomethyl)-5-chlorobenzoate (100 mg, 0.4 mmol) in dimethylformamide and the mixture was stirred at room temperature overnight. The mixture was quenched with water and extracted with ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate and evaporated. The residue was purified by flash column chromatography on silica gel to afford 47 mg (53%) of the title compound:

reactant | 3-fluoro-5-hydroxypyridine | 0.30 mmol, 34 mg | FC=1C=NC=C(C1)O | C5H4FNO
reactant | sodium hydride | 0.30 mmol, 12 mg | [H-].[Na+]
reactant | methyl 2-(bromomethyl)-5-chlorobenzoate | 0.4 mmol, 100 mg | BrCC1=C(C(=O)OC)C=C(C=C1)Cl | C9H8BrClO2
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | Methyl 5-chloro-2-{[(5-fluoropyridin-3-yl)oxy]methyl}benzoate | 47 mg, 53% | ClC=1C=CC(=C(C(=O)OC)C1)COC=1C=NC=C(C1)F | C14H11ClFNO3
